US05202335
To a solution of propyl 2-benzyl-3-(cis-3a,4,7,7a-tetrahydro-2-isoindolinylcarbonyl)propionate (198 mg) in ethanol (2 ml) was added 1N sodium hydroxide solution (668 μl) and the mixture was stirred at room temperature for 16 hours. After the solvent was evaporated under reduced pressure, the residue was dissolved in water and extracted with ethyl acetate. The aqueous layer was acidified with hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with brine and dried over MgSO4. After the solvent was evaporated under reduced pressure, the residue was crystallized from diethyl ether to give 120 mg of 2-benzyl-3-(cis-3a,4,7,7a-tetrahydro-2-isoindolinylcarbonyl)propionic acid.

reactant | propyl 2-benzyl-3-(cis-3a,4,7,7a-tetrahydro-2-isoindolinylcarbonyl)propionate | 198 mg | C(C1=CC=CC=C1)C(C(=O)OCCC)CC(=O)N1C[C@H]2CC=CC[C@H]2C1 | C22H29NO3
reactant | sodium hydroxide | 1N, 668 μl | [OH-].[Na+]
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 2-benzyl-3-(cis-3a,4,7,7a-tetrahydro-2-isoindolinylcarbonyl)propionic acid | 120 mg | C(C1=CC=CC=C1)C(C(=O)O)CC(=O)N1C[C@H]2CC=CC[C@H]2C1 | C19H23NO3
